US09382188B2
A) (2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)(4-methoxybenzyl)sulfane
To a solution of 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl trifluoromethanesulfonate (1.88 g) in toluene (22 mL) were added 4-methoxy-α-toluenethiol (748 μL), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (78 mg), N-ethyldiisopropylamine (1.56 mL) and tris(dibenzylideneacetone)dipalladium(0) (123 mg) at room temperature, and the mixture was stirred at 120° C. for 20 hr. The mixture was poured into ice water at room temperature, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (1.68 g) as a colorless oil.

reactant | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl trifluoromethanesulfonate | 1.88 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C)(F)F | C19H20F4O4S
reactant | 4-methoxy-α-toluenethiol | 748 μL | COC1=CC=C(C=C1)CS | C8H10OS
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 78 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | N-ethyldiisopropylamine | 1.56 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 123 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)(4-methoxybenzyl)sulfane | 1.68 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)SCC1=CC=C(C=C1)OC)CC(C)(C)C | C26H29FO2S
